US07776920B2
Preparation of N′-[2-hydroxy-2-(3-hydroxyphenyl)acetyl]-2-chloro-4,6-dihydroxybenzohydrazide (“A15”)
720 mg of N′-[2-hydroxy-2-(3-hydroxyphenyl)acetyl]-2-chloro-4,6-dibenzyloxybenzohydrazide in 20 ml of THF+0.2 ml of 32% HCl are hydrogenated with the calculated amount of H2 using 360 mg of PdoC. The hydrogenation solution is evaporated and chromatographed on silica gel. The uniform fractions are combined, evaporated and recrystallised from EtOAc. Yield 310 mg (65%) of “A15”, m.p. 230-231°.

reactant | N′-[2-hydroxy-2-(3-hydroxyphenyl)acetyl]-2-chloro-4,6-dibenzyloxybenzohydrazide | 720 mg | OC(C(=O)NNC(C1=C(C=C(C=C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)Cl)=O)C1=CC(=CC=C1)O | C29H25ClN2O6
reactant | HCl | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N′-[2-hydroxy-2-(3-hydroxyphenyl)acetyl]-2-chloro-4,6-dihydroxybenzohydrazide | OC(C(=O)NNC(C1=C(C=C(C=C1O)O)Cl)=O)C1=CC(=CC=C1)O | C15H13ClN2O6
